US05166152
N-Formylmorpholine (7.58 g) dissolved in anhydrous ethyl ether (200 ml) is reacted with oxalyl chloride (8.02 g) under stirring at room temperature for 20 hours. The precipitate is filtered, washed with anhydrous ethyl ether and dried in vacuo at room temperature for 1 hour to yield 8.9 g of 4-chloromethylene-morpholinium chloride. This compound (5.47 g) is added portionwise at -15°60 C. to a stirred solution of 3-(8-amino-1,4-dihydro-1-phenyl-[1]-benzothiopyrano[4,3-c]pyrazol-3-yl)-2-cyano-3-oxo-N-phenyl-propanamide (3 g) in anhydrous tetrahydrofuran (130 ml) containing triethylamine (8.96 ml). The reaction mixture is kept under stirring at -15° C. for 2 hours and then at about 0° C. for 2 hours again. Finally it is diluted with ice water and acidified to pH 4 with citric acid. The precipitate is filtered, fired in vacuo at 50° C. and then purified over a SiO2 column using chloroform/methanol30% NH4OH 85/12/0.5 as eluent. The recovered product is crystallized from methanol to yield 1.4 g of 2-cyano-3(1,4-dihydro-8-morpholinomethyleneamino-1-phenyl-[1]-benzothiopyrano[4,3-c]pyrazol-3-yl)-3-oxo-N-phenyl-propanamide, m.p. 205°-210° C.

reactant | 3-(8-amino-1,4-dihydro-1-phenyl-[1]-benzothiopyrano[4,3-c]pyrazol-3-yl)-2-cyano-3-oxo-N-phenyl-propanamide | 3 g | NC=1C=CC2=C(C1)C=1N(N=C(C1CS2)C(C(C(=O)NC2=CC=CC=C2)C#N)=O)C2=CC=CC=C2 | C26H19N5O2S
reactant | triethylamine | 8.96 ml | C(C)N(CC)CC | C6H15N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
product | 2-cyano-3(1,4-dihydro-8-morpholinomethyleneamino-1-phenyl-[1]-benzothiopyrano[4,3-c]pyrazol-3-yl)-3-oxo-N-phenyl-propanamide | 1.4 g | C(#N)C(C(=O)NC1=CC=CC=C1)C(=O)C=1C2=C(N(N1)C1=CC=CC=C1)C1=C(SC2)C=CC(=C1)N=CN1CCOCC1 | C31H26N6O3S
